US08008298B2
[2-(4-Diethylamino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and 4-(diethylamino)phenylboronic acid following general procedures as described in these Examples. MP 211-213° C., M+H=391.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | 4-(diethylamino)phenylboronic acid | C(C)N(C1=CC=C(C=C1)B(O)O)CC | C10H16BNO2
product | [2-(4-Diethylamino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone | C(C)N(C1=CC=C(C=C1)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C)CC | C24H30N4O
